US08455488B2
Synthesis of 1-(4-chlorobenzyl)-3-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxy-propan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylamino)-2-oxoethoxy)urea (Compound II-118)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-(4-chlorobenzyl)ureidooxy)acetic acid (Compound VI-11) 76 mg (0.29 mmol) was coupled with (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide (Compound IV-6) 100 mg (0.20 mmol) to obtain the title compound.

reactant | 2-(3-(4-chlorobenzyl)ureidooxy)acetic acid | 0.29 mmol, 76 mg | ClC1=CC=C(CNC(NOCC(=O)O)=O)C=C1 | C10H11ClN2O4
reactant | (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide | 0.20 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)CC2=CC=C(C=C2)OC(C)(C)C | C29H40N2O4S
product | 1-(4-chlorobenzyl)-3-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxy-propan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylamino)-2-oxoethoxy)urea | ClC1=CC=C(CNC(=O)NOCC(=O)N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=2C3=C(SC2)C=CC=C3)CC3=CC=C(C=C3)OC(C)(C)C)C=C1 | C39H49ClN4O7S
